US07160889B2
Using an analogous procedure to that described in Example 10, 4-bromo-2-fluoro-5-hydroxyphenylamino-7-[2-acetoxy-3-(pyrrolidin-1-yl)propoxy]-6-methoxyquinazoline (106 mg) was treated with methanol saturated with ammonia to give 4-bromo-2-fluoro-5-hydroxyphenylamino-7-[2-hydroxy-3-(pyrrolidin-1-yl)propoxy]-6-methoxyquinazoline (68 mg)

reactant | 4-bromo-2-fluoro-5-hydroxyphenylamino-7-[2-acetoxy-3-(pyrrolidin-1-yl)propoxy]-6-methoxyquinazoline | 106 mg | BrC1=NC(=NC2=C(C(=C(C(=C12)O)OC)OCC(CN1CCCC1)OC(C)=O)NC1=CC=CC=C1)F | C24H26BrFN4O5
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-bromo-2-fluoro-5-hydroxyphenylamino-7-[2-hydroxy-3-(pyrrolidin-1-yl)propoxy]-6-methoxyquinazoline | 68 mg | BrC1=NC(=NC2=C(C(=C(C(=C12)O)OC)OCC(CN1CCCC1)O)NC1=CC=CC=C1)F | C22H24BrFN4O4
